US09108983B2
Step A: Ethyl 1-methyl-2-(trifluoromethyl)pyrrole-3-carboxylate
Ethyl 4,4,4-trifluoro-3-oxo-butanoate (29 ml, 0.219 mmol) is added to methylamine (40% solution in water) (50 ml, 0.580 mmol) cooled to 10° C.; a white precipitate forms. 1,2-Dibromoethyl acetate (prepared according to Molecules, 16, 9368-9385; 2011) is added dropwise. The reactor is then sealed and heated at 70° C. for 45 minutes. The reaction mixture is cooled, then extracted with ethyl acetate, dried over sodium sulphate (Na2SO4) and evaporated to dryness. The crude reaction product obtained is purified by chromatography over silica gel using heptane and ethyl acetate as eluants. The expected compound is obtained in the form of crystals.

reactant | Ethyl 4,4,4-trifluoro-3-oxo-butanoate | 0.219 mmol, 29 ml | FC(C(CC(=O)OCC)=O)(F)F | C6H7F3O3
reactant | methylamine | 0.580 mmol, 50 ml | CN | CH5N
reactant | 1,2-Dibromoethyl acetate | C(C)(=O)OC(CBr)Br | C4H6Br2O2
product | Ethyl 1-methyl-2-(trifluoromethyl)pyrrole-3-carboxylate | CN1C(=C(C=C1)C(=O)OCC)C(F)(F)F | C9H10F3NO2
